US07320973B2
4-Pyrrolidinophenethyl mesylate (13.45 g, 50.0 mmol), (S)-3-pyrrolidinol hydrochloride (5.56 g, 45.0 mmol) and potassium carbonate (18.63 g, 135 mmol) were added to acetonitrile (200 ml), and they were heated at 90° C. for 3 hours. The reaction mixture was cooled and then filtered. The filtrate was evaporated to dryness under reduced pressure, and the residue was distributed into water and ethyl acetate. The intended product was extracted from the ethyl acetate layer with 1 M hydrochloric acid. The aqueous layer was neutralized and then the product was again extracted with ethyl acetate. The organic layer was dried and the solvent was evaporated under reduced pressure to obtain (S)-3-hydroxy-1-(4-pyrrolidinophenethyl)pyrrolidine in the form of a light yellow solid (6.30 g, 52%).

reactant | 4-Pyrrolidinophenethyl mesylate | 50.0 mmol, 13.45 g | S(C)(=O)(=O)OCCC1=CC=C(C=C1)N1CCCC1 | C13H19NO3S
reactant | (S)-3-pyrrolidinol hydrochloride | 45.0 mmol, 5.56 g | Cl.N1C[C@H](CC1)O
reactant | potassium carbonate | 135 mmol, 18.63 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | (S)-3-hydroxy-1-(4-pyrrolidinophenethyl)pyrrolidine | O[C@@H]1CN(CC1)CCC1=CC=C(C=C1)N1CCCC1 | C16H24N2O
